US07687503B2
10.1. 2-(ethyloxy)-2-oxoethyl 4-(6-chloro-3-pyridazinyl)-1-piperazinecarboxylate
The process is performed as described in Example 1 (step 1.2.). Starting with 1.60 g (8.05 mmol) of 3-chloro-6-(1-piperazinyl)pyridazine (J. Med. Chem., 18, 2002, 4011-4017) and 1.99 g (8.86 mmol) of ethyl [(phenyloxy-carbonyl)oxy]acetate, prepared in step 1.1. of Example 1, and after chromatography on silica gel, eluting with a 98/2 mixture of dichloromethane and methanol, 1.70 g of product are obtained in the form of a white solid.

reactant | 3-chloro-6-(1-piperazinyl)pyridazine | 8.05 mmol, 1.60 g | ClC=1N=NC(=CC1)N1CCNCC1 | C8H11ClN4
reactant | ethyl [(phenyloxy-carbonyl)oxy]acetate | 8.86 mmol, 1.99 g | C1(=CC=CC=C1)OC(=O)OCC(=O)OCC | C11H12O5
product | 2-(ethyloxy)-2-oxoethyl 4-(6-chloro-3-pyridazinyl)-1-piperazinecarboxylate | ClC1=CC=C(N=N1)N1CCN(CC1)C(=O)OCC(=O)OCC | C13H17ClN4O4
